US07709496B2
(a) Methyl (2E)-3-(3-bromo-5-chloro-2-hydroxyphenyl)-2-propenoate
To a solution of bis(2,2,2-trifluoroethyl)(methoxycarbonylmethyl)phosphonate (3.18 g, 10.0 mmol) in THF (100 mL) at −78° C. was added 18-crown-6 (13.2 g, 50.0 mmol). The solution was stirred for 10 min then a solution of potassium hexamethyldisilazide in THF (0.91 M, 11.0 mL, 10.0 mmol) was added slowly. The reaction was stirred for 20 min then 3-bromo-5-chloro-2-hydroxy benzaldehyde (2.35 g, 10 mmol) was added. The reaction was allowed to stir at −78° C. for 2 hr, then was quenched with saturated NH4Cl (20 mL) The mixture was extracted with Et2O (3×100 mL) and the organic layer was dried (Na2SO4) and concentrated. Flash chromatography on silica gel (15% EtOAc/hexanes) gave, the title compound (2.48 g, 85%) as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ 7.88 (d, J=16.0 Hz, 1H), 7.50 (s, 1H), 7.44 (s, 1H), 6.57 (d, J=16.0 Hz, 1H), 3.84 (s, 3H); MS (ES) m/e 291, 293 (M+H)+.

reactant | bis(2,2,2-trifluoroethyl)(methoxycarbonylmethyl)phosphonate | 10.0 mmol, 3.18 g | FC(COP(OCC(F)(F)F)(=O)CC(=O)OC)(F)F | C7H9F6O5P
reactant | 18-crown-6 | 50.0 mmol, 13.2 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 3-bromo-5-chloro-2-hydroxy benzaldehyde | 10 mmol, 2.35 g | BrC=1C(=C(C=O)C=C(C1)Cl)O | C7H4BrClO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10.0 mmol, 0.91 M, 11.0 mL | C1CCOC1 | C4H8O
product | Methyl (2E)-3-(3-bromo-5-chloro-2-hydroxyphenyl)-2-propenoate | 2.48 g, 85% | BrC=1C(=C(C=C(C1)Cl)/C=C/C(=O)OC)O | C10H8BrClO3
